US07776847B2
N-(2-(Benzo[d]isothiazol-3-ylamino)ethyl)piperidine-3-carboxamide (75 mg, 0.24 mmol) was dissolved in anhydrous dichloromethane (5 mL) with diisopropylethylamine (38 μL, 0.27 mmol). The solution was cooled on an ice-water bath and then a solution of 3,5-dichlorobenzoyl chloride (57 mg, 0.27 mmol) in dichloromethane (0.5 mL) was added dropwise. The reaction mixture was allowed to stir overnight while warming to room temperature. The solution was washed with saturated sodium bicarbonate solution and brine, then dried over anhydrous sodium sulfate, filtered and the filtrate concentrated under reduced pressure. Purification by column chromatography, on silica gel, eluting with a mixture of 25% ethyl acetate in hexanes and selected fractions were combined and concentrated under reduced pressure to yield N-(2-(benzo[d]isothiazol-3-ylamino)ethyl)-1-(3,5-dichlorobenzoyl)piperidine-3-carboxamide (23 mg). 1H NMR (300 MHz, CDCl3): 7.8 (m, 1H), 7.5 (m, 1H), 7.3 (m, 2H), 7.1 (m, 1H), 6.3 (m, 1H), 3.7 (m, 4H), 3.3 (m, 2H), 2.5 (m, 1H), 1.8 (m, 1H), 1.6 (m, 3H) 1.1 ppm (m, 1H). MW=477 confirmed by LC-MS, tr=3.93 min (Method Y) MH+=478.

reactant | N-(2-(Benzo[d]isothiazol-3-ylamino)ethyl)piperidine-3-carboxamide | 0.24 mmol, 75 mg | S1N=C(C2=C1C=CC=C2)NCCNC(=O)C2CNCCC2 | C15H20N4OS
reactant | diisopropylethylamine | 0.27 mmol, 38 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3,5-dichlorobenzoyl chloride | 0.27 mmol, 57 mg | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | N-(2-(benzo[d]isothiazol-3-ylamino)ethyl)-1-(3,5-dichlorobenzoyl)piperidine-3-carboxamide | 23 mg | S1N=C(C2=C1C=CC=C2)NCCNC(=O)C2CN(CCC2)C(C2=CC(=CC(=C2)Cl)Cl)=O | C22H22Cl2N4O2S
